US07071175B1
NaCNBH3 (1.88 g; 29.9 mmol) was added to a stirred solution of 2-(2-amino-thiazol-5-ylmethylene)-malonic acid diethyl ester (1.13 g; 4.2 mmol) in ethanol at 0° C. The pH of the solution was monitored by addition of a small amount of Bromocresol Green to the solution. Concentrated HCl was added dropwise until the solution turned yellow. The ice bath was removed, and the reaction mixture was stirred at room temperature for 5 hours. Water was added and the product was extracted with CH2Cl2. The combined organic phases were dried and concentrated to yield 2-(2-amino-thiazol-5-ylmethyl)-malonic acid diethyl ester (1 g, 87.8%).

reactant | NaCNBH3 | 29.9 mmol, 1.88 g | [BH3-]C#N.[Na+]
reactant | 2-(2-amino-thiazol-5-ylmethylene)-malonic acid diethyl ester | 4.2 mmol, 1.13 g | C(C)OC(C(C(=O)OCC)=CC1=CN=C(S1)N)=O | C11H14N2O4S
reactant | Bromocresol Green | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-amino-thiazol-5-ylmethyl)-malonic acid diethyl ester | 1 g, 87.8% | C(C)OC(C(C(=O)OCC)CC1=CN=C(S1)N)=O | C11H16N2O4S
